US08871756B2
3-(Benzyloxy)propanenitrile
To a mixture of benzyl alcohol (108 g, 1 mol) and 40% aqueous solution of sodium hydroxide (10 mL) was added prop-2-enenitrile (58.3 g, 1.1 mol) and the mixture was stirred for 6 hours at room temperature. The mixture was neutralized with 1 N hydrochloric acid, and extracted with dichloromethane (300 mL). The organic layer was washed with 5% solution of sodium hydroxide (300 mL) and brine (300 mL), dried over sodium sulfate and concentrated in vacuo to afford 150 g of the desired compound (yield was 93%).

reactant | benzyl alcohol | 1 mol, 108 g | C(C1=CC=CC=C1)O | C7H8O
reactant | prop-2-enenitrile | 1.1 mol, 58.3 g | C(C=C)#N | C3H3N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | sodium hydroxide | 10 mL | [OH-].[Na+]
product | 3-(Benzyloxy)propanenitrile | 150 g, yield was 93% | C(C1=CC=CC=C1)OCCC#N | C10H11NO
